US08835420B2
Preparation x27: (S)-4-Amino-6-((1-(1-methyl-6-(thiazol-4-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylthio)pyrimidine-5-carbonitrile
(S)-1-(1-methyl-6-(thiazol-4-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine dihydrochloride (200 mg, 0.604 mmol), 4-amino-6-chloro-2-(methylthio)pyrimidine-5-carbonitrile (182 mg, 0.906 mmol), and N-ethyl-N-isopropylpropan-2-amine (0.315 mL, 1.81 mmol) were combined in acetonitrile (6 mL). The reaction mixture was heated in a microwave reactor at 120° C. for 2 hours and then concentrated. The residue was dissolved in MeOH/DCM, absorbed onto silica gel, and purified by column chromatography eluting with 20-80% EtOAc in hexane over 60 minutes. The fractions containing the desired product were collected and concentrated to give the title compound (22 mg, 9%). ESI-MS m/z [M+H]+ calc'd for C19H18N8S2, 423; found 423.

reactant | (S)-1-(1-methyl-6-(thiazol-4-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine dihydrochloride | 0.604 mmol, 200 mg | Cl.Cl.CN1C=CC2=NC(=C(C=C21)C=2N=CSC2)[C@H](C)N
reactant | 4-amino-6-chloro-2-(methylthio)pyrimidine-5-carbonitrile | 0.906 mmol, 182 mg | NC1=NC(=NC(=C1C#N)Cl)SC | C6H5ClN4S
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.81 mmol, 0.315 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | (S)-4-Amino-6-((1-(1-methyl-6-(thiazol-4-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylthio)pyrimidine-5-carbonitrile | 22 mg, 9% | NC1=NC(=NC(=C1C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C=2N=CSC2)SC | C19H18N8S2
